US09403807B2
Step A: N-(1-(3-(4-chlorophenyl)-6-oxoheptan-3-yl)-1H-indazol-4-yl)methanesulfonamide
A mixture of methyl 4-(4-chlorophenyl)-4-(4-(methylsulfonamido)-1H-indazol-1-yl)hexanoate (50 mg), as described in Example 44 Step E, in 2 mL of anhydrous THF was added CH3Li (1.5 M in ether, 0.2 mL) dropwise at 0° C. and stirred for 30 min. The solution was quenched with saturated NH4Cl solution, and extracted with ethyl acetate (20 mL). The organic layer was washed with brine, dried over dry sodium sulfate, filtered and evaporated. The residue was purified on revered—phase HPLC (0.05% TFA in H2O—MeCN) to give the title product as a white solid. LC/MS m/z=434.1 [M+H]+.

reactant | methyl 4-(4-chlorophenyl)-4-(4-(methylsulfonamido)-1H-indazol-1-yl)hexanoate | 50 mg | ClC1=CC=C(C=C1)C(CCC(=O)OC)(CC)N1N=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H24ClN3O4S
reactant | CH3Li | 1.5 M, 0.2 mL | C[Li]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(1-(3-(4-chlorophenyl)-6-oxoheptan-3-yl)-1H-indazol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(CC)(CCC(C)=O)N1N=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H24ClN3O3S
